US04051249
2.4 g of mixed lithium aluminum hydride was added under nitrogen to a solution of 11.3 g of methyl 2-ethyl-thiazole-5-carboxylate in 100 ml of anhydrous tetrahydrofuran at 20 to 25° C and the mixture was refluxed for 1 1/2 hours. After cooling the mixture, excess lithium aluminum hydride was destroyed by the addition of ethyl acetate. The mixture was added to water and was vacuum filtered. The recovered precipitate was empasted with ethyl acetate and then with a methanol-methylene chlorine mixture. The filtrate was washed with water, dried and evaporated to dryness to obtan 9.5 g of an oil which was rectified under reduced pressure to obtain 8.9 g of 2-ethyl-thiazole-5-methanol with a boiling point of 78° C at 0.1 mm Hg.

reactant | lithium aluminum hydride | 2.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2-ethyl-thiazole-5-carboxylate | 11.3 g | C(C)C=1SC(=CN1)C(=O)OC | C7H9NO2S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-ethyl-thiazole-5-methanol | 8.9 g | C(C)C=1SC(=CN1)CO | C6H9NOS
